US05382590
2.3 g of manganese dioxide are added in 2 portions at a 20-hour interval to a solution of 0.8 g of (RS)-2-{3-[3-(1-hydroxyethyl)phenyl]ureido}-N-[2-oxo-2-(1,2,3,4-tetrahydro-1-quinolyl)ethyl]-N-phenylacetamide in 50 cm3 of methylene chloride. The mixture is stirred at a temperature close to 25° C for 70 hours. The insoluble product is separated off by filtration and the filtrate is concentrated to dryness under reduced pressure (2.7 kPa) at 40° C. After recrystallization from diisopropyl ether, 0.3 g of 2-[3-(3-acetylphenyl)ureido]-N-[2-oxo-2-(1,2,3,4-tetrahydro-1-quinolyl)ethyl]-N-phenylacetamide melting at 130° C is obtained.

reactant | (RS)-2-{3-[3-(1-hydroxyethyl)phenyl]ureido}-N-[2-oxo-2-(1,2,3,4-tetrahydro-1-quinolyl)ethyl]-N-phenylacetamide | 0.8 g | OC(C)C=1C=C(C=CC1)NC(NCC(=O)N(C1=CC=CC=C1)CC(N1CCCC2=CC=CC=C12)=O)=O | C28H30N4O4
solvent | methylene chloride | 50 cm3 | C(Cl)Cl | CH2Cl2
catalyst | manganese dioxide | 2.3 g | [O-2].[O-2].[Mn+4]
product | 2-[3-(3-acetylphenyl)ureido]-N-[2-oxo-2-(1,2,3,4-tetrahydro-1-quinolyl)ethyl]-N-phenylacetamide | 0.3 g | C(C)(=O)C=1C=C(C=CC1)NC(NCC(=O)N(C1=CC=CC=C1)CC(N1CCCC2=CC=CC=C12)=O)=O | C28H28N4O4
